* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1363.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 464
V3 IN N006 SINE(0 1 100Meg)
C1 N002 N004 47p
R3 N004 N001 1.33K
C2 N001 0 220p
C3 OUT N005 22p
R5 N005 N003 1.13K
R6 N003 N002 549
C4 N003 0 470p
R4 N001 IN 464
R2 OUT N003 549
V4 N006 0 SINE(0 1 10k)
X§U1 0 N004 +V -V N002 LT1363
X§U2 0 N005 +V -V OUT LT1363
* 2MHz, 4th Order Butterworth Filter
.tran 0.2m
.lib LT1363.sub
.backanno
.end
